US06605629B1
3-[4-(4-Chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]propyl methanesulfonate (400 mg), 4-hydroxyphenylacetonitrile (200 mg), potassium carbonate (276 mg) and N,N-dimethylformamide (10 ml) was stirred at 100° C. for 4 hours. The reaction mixture was poured into water (100 ml) and extracted with ethyl acetate (100 ml×2). The organic layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography, and 2-[4-[3-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]propyloxy]phenyl]acetonitrile was obtained as a yellow oil (380 mg, 89%) from an ethyl acetate-hexane (2:1, v/v)-eluted fraction.

reactant | 3-[4-(4-Chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]propyl methanesulfonate | 400 mg | CS(=O)(=O)OCCCC1=C(N=C(O1)N1C(=NC=C1)C)C1=CC=C(C=C1)Cl | C17H18ClN3O4S
reactant | 4-hydroxyphenylacetonitrile | 200 mg | OC1=CC=C(C=C1)CC#N | C8H7NO
reactant | potassium carbonate | 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 2-[4-[3-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]propyloxy]phenyl]acetonitrile | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=CC=C(C=C1)CC#N)N1C(=NC=C1)C | C24H21ClN4O2
